US03994954
N-t-Butoxycarbonyl-2-acetoxyglycine n-butyl ester
A solution of 23.4 g (0.2 mol.) of t-butyl carbamate [Org. Syn., 48, 32 (1968); U.S. 3,072,710] and 32.2 g. (0.25 mol.) of n-butyl glyoxylate (Org. Syn. Col. Vol. 4, 124) in 150 ml. of acetic anhydride was refluxed for 1.25 hours. The reaction mixture was then cooled, the solvent was removed in vacuo and the residue was molecularly distilled at 130°/.05 mm. to give the title compound.

reactant | t-butyl carbamate | 0.2 mol, 23.4 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | n-butyl glyoxylate | 0.25 mol | C(C=O)(=O)OCCCC | C6H10O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-t-Butoxycarbonyl-2-acetoxyglycine n-butyl ester | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
